Cost-board brownout in the machine: mains at 88 % (US 106 V) - 9VAC winding 11.2 V peak, GBU8J, C5 10000uF feeding the +5V buck at its rated 3 A; 13.3VAC winding 16.5 V peak, GBJ1510, 2 x 10000uF with 5 A of lamps feeding the +12V digital buck (0.75 A); '9.8VAC' winding (12.47 VAC measured unloaded) at 88 % = 15.5 V peak, 0.25 ohm per leg, GBU8J, 10000uF with 2.5 A of motors/optos on the +12V power rail; UVLO stop levels 5.6 V / 8.5 V modelled
.include ../models.lib
V9 s1 s2 SIN(0 11.18 60)
Rs1 s1 sa 0.05
Rs2 s2 sb 0.05
DS1 sa vraw DGBU8
DS2 sb vraw DGBU8
DS3 0 sa DGBU8
DS4 0 sb DGBU8
C5 vraw 0 10000u
Bv5 v5 0 V = 0.5*(1+tanh((v(vraw)-5.6)*40)) * min(5.0, max(0.97*v(vraw) - 0.5, 0))
R5 v5 0 1.667
Bin5 vraw 0 I = (v(v5)*v(v5)/1.667) / (0.88*max(v(vraw),1))
V13 l1 l2 SIN(0 16.54 60)
Rl1 l1 la 0.05
Rl2 l2 lb 0.05
DL1 la v18 DGBJ15
DL2 lb v18 DGBJ15
DL3 0 la DGBJ15
DL4 0 lb DGBJ15
C6 v18 0 10000u
C7 v18 0 10000u
Rl18 v18 0 2.5
Bv12 v12 0 V = 0.5*(1+tanh((v(v18)-8.5)*40)) * min(12.0, max(0.97*v(v18) - 0.5, 0))
R12 v12 0 16
Bin12 v18 0 I = (v(v12)*v(v12)/16) / (0.88*max(v(v18),1))
V98 u1 u2 SIN(0 15.5 60)
Ru1 u1 ua 0.25
Ru2 u2 ub 0.25
DU1 ua v12u DGBU8
DU2 ub v12u DGBU8
DU3 0 ua DGBU8
DU4 0 ub DGBU8
C30 v12u 0 10000u
Rmot v12u 0 4.8
.tran 50u 200m uic
.control
run
meas tran vraw_min MIN v(vraw) from=150m to=200m
meas tran v5_min MIN v(v5) from=150m to=200m
meas tran v18_min MIN v(v18) from=150m to=200m
meas tran v12_min MIN v(v12) from=150m to=200m
meas tran v12u_min MIN v(v12u) from=150m to=200m
meas tran vraw_avg AVG v(vraw) from=150m to=200m
wrdata /home/lolz0r/tng/wpc_power_driver_cost/output/spice/psu_brownout.csv v(vraw) v(v5) v(v18) v(v12) v(v12u)
.endc
.end
